US07868030B2
i) 2-Isobutyl-3-methyl-thiophene
A part of a solution containing 2-bromo-3-methylthiophene (1.5 g, 8.5 mmol) in dry diethyl ether is added drop-wise to a suspension of magnesium (308 mg, 12.7 mmol, 1.5 equiv.) in dry diethyl ether until the mixture starts to reflux. The remaining solution is added dropwise. A solution of toluene-4-sulfonic acid isobutyl ester (2.9 g, 12.7 mmol, 1.5 equiv.) in dry diethyl ether is added dropwise at room temp., then the mixture is further refluxed for two hours. After cooling to room temp., the mixture is quenched with sat. ammonium chloride solution and extracted with tert. butylmethylether. The combined organic extracts are washed with water, brine, dried over magnesiumsulfat-dihydrate, filtered and evaporated to give a yellow oil. After Kugelrohr-distillation, 630 mg of the title compound is obtained as a colorless oil. GC-MS (EI): M=154

reactant | 2-bromo-3-methylthiophene | 8.5 mmol, 1.5 g | BrC=1SC=CC1C | C5H5BrS
reactant | magnesium | 12.7 mmol, 308 mg, 1.5 equiv. | [Mg] | Mg
reactant | toluene-4-sulfonic acid isobutyl ester | 12.7 mmol, 2.9 g, 1.5 equiv. | C(C(C)C)OS(=O)(=O)C1=CC=C(C=C1)C | C11H16O3S
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Isobutyl-3-methyl-thiophene | 630 mg | C(C(C)C)C=1SC=CC1C | C9H14S
